US07645789B2
To a solution of 2-bromo-6-fluoro-4-nitro-phenylamine (11 g, 47 mmol) in dry Et3N (100 mL) was added CuI (445 mg, 5% mol), Pd(PPh3)2Cl2 (550 mg, 5% mol) and 3,3-dimethyl-but-1-yne (9.6 g, 120 mmol) under N2 protection. The mixture was stirred at 80° C. for 10 h. The reaction mixture was filtered, poured into ice (100 g), and extracted with EtOAc (50 mL×3). The combined organic extracts were dried over anhydrous Na2SO4 and evaporated under vacuum to give the crude product, which was purified by column chromatography on silica gel (petroleum ether/ethyl acetate 50:1) to give 2-(3,3-dimethyl-but-1-ynyl)-6-fluoro-4-nitro-phenylamine (4.0 g, 36%). 1H NMR (400 MHz, CDCl3) δ 8.02 (d, J=1.2 Hz, 1H), 7.84 (dd, J=2.4, 10.8 Hz, 1H), 4.85 (brs, 2H), 1.36 (s, 9H).

reactant | 2-bromo-6-fluoro-4-nitro-phenylamine | 47 mmol, 11 g | BrC1=C(C(=CC(=C1)[N+](=O)[O-])F)N | C6H4BrFN2O2
reactant | 3,3-dimethyl-but-1-yne | 120 mmol, 9.6 g | CC(C#C)(C)C | C6H10
solvent | Et3N | 100 mL | CCN(CC)CC | C6H15N
catalyst | CuI | 445 mg | [Cu]I
catalyst | Pd(PPh3)2Cl2 | 550 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 2-(3,3-dimethyl-but-1-ynyl)-6-fluoro-4-nitro-phenylamine | 4.0 g, 36% | CC(C#CC1=C(C(=CC(=C1)[N+](=O)[O-])F)N)(C)C | C12H13FN2O2
